US07807676B2
To a sealable flask containing 7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridine (1 g, 4.40 mmol) was added 4-chloro-1H-pyrazole (0.903 g, 8.81 mmol), potassium carbonate (2.435 g, 17.62 mmol), copper(I) iodide (0.419 g, 2.202 mmol), and trans-1,2-bis(methylamino)cyclohexane (0.626 g, 4.40 mmol). The mixture was diluted with 1,4-Dioxane (15 mL) and was sealed and heated to 100° C. for 3 h. The mixture was cooled to rt and was filtered through a pad of celite to remove any solids. The organic solution as concentrated under reduced pressure, and the residue was purified by flash chromatography to give 7-(4-chloro-1H-pyrazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridine (0.79 g, 3.18 mmol, 72.1% yield) as an off-white solid. LCMS: m/e 249.12 (M+H)+, ret time 2.851 min (method 4).

reactant | 7-bromo-4-methoxy-1H-pyrrolo[2,3-c]pyridine | 4.40 mmol, 1 g | BrC=1N=CC(=C2C1NC=C2)OC | C8H7BrN2O
reactant | 4-chloro-1H-pyrazole | 8.81 mmol, 0.903 g | ClC=1C=NNC1 | C3H3ClN2
reactant | potassium carbonate | 17.62 mmol, 2.435 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-1,2-bis(methylamino)cyclohexane | 4.40 mmol, 0.626 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | 1,4-Dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 2.202 mmol, 0.419 g | [Cu]I
product | 7-(4-chloro-1H-pyrazol-1-yl)-4-methoxy-1H-pyrrolo[2,3-c]pyridine | 3.18 mmol, 0.79 g, 72.1% yield | ClC=1C=NN(C1)C=1N=CC(=C2C1NC=C2)OC | C11H9ClN4O
